Data/regression/rad6re/fold_0/aam_train.csv
AAM,dh
[O:1]=[C:2]([H:3])/[C:4]([H:5])=[C:6](\[H:7])[C:8][O:9][H:10]>>[H:7].[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]#[C:8][O:9][H:10],2.73264193457
[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])([H:5])[C:6]#[C:7],5.81080440839
[C:6](#[C:7][C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]([H:4])[H:5]>>[H:1][O:2][C:3]([H:4])([H:5])/[C:6](=[C:7]/[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-1.08380014278
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]=[O:7]>>[C:6]=[O:7].[O:1]=[C:2]=[C:3]([H:4])[H:5],-1.87350763396
[H:15].[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])[H:14]>>[H:1][C:2]=[C:3]([H:4])[C@@:5]([H:6])([C:7]([H:8])=[C:9]([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-4.58656802584
[O:1]=[C:2]([H:3])[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13]>>[C:4]([H:5])[C:6]([H:7])([H:8])[C:9][C:10]([H:11])([H:12])[H:13].[O:1]=[C:2][H:3],5.14757643773
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13]>>[C:7]([H:8])[H:9].[O:1]=[C:2][C:3]([H:4])([H:5])[C:6][C:10]([H:11])([H:12])[H:13],8.56221570974
[H:11].[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])=[C:8]([H:9])[H:10]>>[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[C:8]([H:9])([H:10])[H:11],-1.966338618
[H:1][O:2][C:3]([H:4])([H:5])[O:6][C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:1][O:2][C:3]([H:4])[H:5].[O:6]=[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],0.5781849167700001
[H:1][O:2][C:3][O:4][C:5]#[C:6][C:8]([H:9])([H:10])[H:11].[H:7]>>[H:1][O:2][C:3][O:4]/[C:5]=[C:6](\[H:7])[C:8]([H:9])([H:10])[H:11],-2.20029110762
[C:1]#[C:2][O:3][C:4]([H:5])[C:6]([H:7])([H:8])[O:9][H:10]>>[C:1]#[C:2][O:3][C:4][H:5].[C:6]([H:7])([H:8])[O:9][H:10],4.4016395921
[H:1][O:2][C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10]>>[C:3]#[C:4][O:5][C:6][C:7]([H:8])([H:9])[H:10].[H:1][O:2],6.55024766886
[H:1][C:2]([H:3])[C:4]([O:5][O:6][C:7]([H:8])([H:9])[H:10])=[C:11]([H:12])[H:13]>>[H:1][C:2]([H:3])=[C:4]=[C:11]([H:12])[H:13].[O:5][O:6][C:7]([H:8])([H:9])[H:10],0.492417672618
[H:1][O:2][C:3]([H:4])[C:5]#[C:6][O:7][C:8]([H:9])([H:10])[H:11]>>[C:8]([H:9])([H:10])[H:11].[H:1][O:2][C:3]([H:4])[C:5]=[C:6]=[O:7],0.13172223912
[H:1][C:2](=[C:3]([H:4])[H:5])[C:14]([C:6](=[C:7]([H:8])[H:9])[C:10]([H:11])([H:12])[H:13])([H:15])[H:16]>>[H:1][C:2]1[C:3]([H:4])([H:5])[C:6]([C:7]([H:8])[H:9])([C:10]([H:11])([H:12])[H:13])[C:14]1([H:15])[H:16],2.7746606
[C:13]([H:14])([H:15])[H:16].[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])[H:12]>>[H:1][C:2][O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[C:13]([H:14])([H:15])[H:16],-4.002363408469998
[C:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15].[O:1]>>[O:1][C@:2]([H:3])([C:4]([H:5])([H:6])[H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[O:14][H:15],-4.06678103242
[H:1][C:2]#[C:3][O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14]>>[H:1][C:2]#[C:3].[O:4][C:5]([H:6])([H:7])[C:8]([H:9])([H:10])[C:11]([H:12])([H:13])[H:14],5.14779416328
[H:1][C:2](=[O:3])[O:13][C:10]([C:7]([C:4]([H:5])[H:6])([H:8])[H:9])([H:11])[H:12]>>[H:1][C:2]1[O:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[C:10]([H:11])([H:12])[O:13]1,0.332063144489
[H:1][O:2]/[C:3]([H:4])=[C:5](\[H:6])[C:7]([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:11].[H:1][O:2]/[C:3]([H:4])=[C:5]([H:6])/[C:7]([H:8])=[C:9](\[H:10])[C:12]([H:13])([H:14])[H:15],2.29624165504
[O:1]=[C:2][C:3]([H:4])([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15]>>[H:5].[O:1]=[C:2]=[C:3]([H:4])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]([H:13])([H:14])[H:15],2.07910811988
[C:7]([H:8])([H:9])[H:10].[H:1][O:2][C@:3]([H:4])([C:5]#[C:6])[C:11]([H:12])([H:13])[H:14]>>[H:1][O:2][C@:3]([H:4])([C:5]#[C:6][C:7]([H:8])([H:9])[H:10])[C:11]([H:12])([H:13])[H:14],-5.76531168069
[H:1][O:2][C:3]#[C:4][O:5][C:6]([H:7])[H:8]>>[H:1][O:2][C:3]1[C:4][O:5][C:6]1([H:7])[H:8],-0.2327492009099999
[H:1][O:2][C:3](=[C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15].[H:4]>>[H:1][O:2][C@@:3]([H:4])([C:5]([H:6])[H:7])[C:8]([H:9])([H:10])[O:11][C:12]([H:13])([H:14])[H:15],-1.377253782
[H:1][O:2][C:3]1=[C:4]([H:5])[C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1>>[H:1][O:2][C:3]1=[C:4][C:6]([H:7])([H:8])[C:9]([H:10])([H:11])[C:12]1.[H:5],4.6065870147000005
[H:1][C:2]#[C:3][C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12]>>[C:4]([H:5])([H:6])[C:7]([H:8])([H:9])[O:10][O:11][H:12].[H:1][C:2]#[C:3],5.65529559165
[C:4](\[H:5])(=[C:6](/[H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15].[H:1][O:2][C:3]>>[H:1][O:2][C:3][C@:4]([H:5])([C:6]([H:7])[C:8]([H:9])([H:10])[H:11])[C:12]([H:13])([H:14])[H:15],-0.84040486
